US06096736
A mixture of (5S)-5-bromomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.83 g), potassium cyanide (0.27 g) and dimethyl sulfoxide (9 ml) is heated with stirring at 45-50° C. for three hours. To the reaction solution is added ice, and the mixture is extracted with ethyl acetate--diethyl ether. The extract is dried over sodium sulfate, and evaporated under reduced pressure to remove the solvent. The resulting residue is purified by silica gel column chromatography (solvent; n-hexane: ethyl acetate=6:1), and recrystallized from ethyl acetate--n-hexane to give (5R)-5-cyanomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.60 g).

reactant | (5S)-5-bromomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.83 g | BrC[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C18H20BrNO2S
reactant | potassium cyanide | 0.27 g | [C-]#N.[K+]
solvent | dimethyl sulfoxide | 9 ml | CS(=O)C | C2H6OS
product | (5R)-5-cyanomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.60 g | C(#N)C[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C19H20N2O2S
